US04036873
Preparation of Sodium Cresolate
A five liter flask was equipped with a stirrer, thermometer dropping funnel, heating mantle, Dean-Stark trap and a reflux condenser. 329 grams of a 48.6% aqueous solution of NaOH was added to the flask along with 2000 ml of a 4:1 mixture of xylene and 2-ethyl-1-hexanol. 433 grams of commercial cresol (99.4% pure) was slowly added. The batch was heated to reflux to collect the water. The product was a solution of sodium cresolate:xylene-2-ethyl-1-hexanol mixture.

reactant | NaOH | [OH-].[Na+]
reactant | 2-ethyl-1-hexanol | C(C)C(CO)CCCC | C8H18O
reactant | cresol | 433 grams | C1(=CC=CC=C1O)C | C7H8O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | Sodium Cresolate | C=1(C(=CC=CC1O)C(=O)[O-])C.[Na+] | InChI=1S/C8H8O3.Na/c1-5-6(8(10)11)3-2-4-7(5)9;/h2-4,9H,1H3,(H,10,11);/q;+1/p-1
